US06762318B2
4-(2,2-Dimethylpropyl)benzaldehyde
(2,2-Dimethylpropyl)benzene (9.33 g, 63 mmol) was dissolved in dichloromethane (50 mL) and cooled to 0° C. on an ice bath. With vigorous stirring, SnCl4 (28.66 g, 110 mmol) was added all at once via syringe, followed by dropwise addition of dichloromethyl methyl ether (7.24 g, 63 mmol) over 10 min. After 20 min, the ice bath was removed, and the mixture was quenched by the addition of ice-water (100 mL). The aqueous layer was discarded and the organic phase was washed with water (3×25 mL), 3 N hydrochloric acid (3×25 mL), and aqueous saturated sodium chloride (2×25 mL). The organic phase was then treated with activated carbon, dried (magnesium sulphate), filtered and concentrated in vacuo. This afforded the title compound. Yield 7.49 g (62%).

reactant | (2,2-Dimethylpropyl)benzene | 63 mmol, 9.33 g | CC(CC1=CC=CC=C1)(C)C | C11H16
reactant | SnCl4 | 110 mmol, 28.66 g | Cl[Sn](Cl)(Cl)Cl
reactant | dichloromethyl methyl ether | 63 mmol, 7.24 g | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(2,2-Dimethylpropyl)benzaldehyde | CC(CC1=CC=C(C=O)C=C1)(C)C | C12H16O
